US04430505
931 g of aniline, 360 g of urea, 356 g of ethyl carbamate, 1160 g of ethanol (approximately 96%) and 5.3 g of zinc octoate were introduced into the pressure vessel. After the pressure vessel and the column had been purged with nitrogen, the mixture was heated while being stirred. By adjusting the head condenser and the valve at the head of the column, the pressure prevailing in the apparatus was regulated in such a way that it was just sufficient to achieve the required reaction temperature. The mixture was heated to 200° C. and maintained at 200° C. for 6.0 hours. The ammonia given off was rectified in the column and thus separated from covolatilizing substances. The ammonia gas removed was substantially pure. On completion of the reaction, the mixture was cooled and the apparatus vented. The reaction mixture was removed from the pressure vessel, filtered and subjected to fractional distillation. Most of the excess alcohol was initially separated off at atmospheric pressure. The mixture was then distilled at 0.2 mbar. 1435 g (96.9% of the theoretical yield) of N-phenyl carbamic acid ethyl ester having a melting point of from 50° to 51° C. were obtained.

reactant | aniline | 931 g | NC1=CC=CC=C1 | C6H7N
reactant | urea | 360 g | NC(=O)N | CH4N2O
reactant | ethyl carbamate | 356 g | C(N)(OCC)=O | C3H7NO2
reactant | ammonia | N | H3N
catalyst | zinc octoate | 5.3 g | CCCCCCCC(=O)[O-].CCCCCCCC(=O)[O-].[Zn+2]
solvent | ethanol | 1160 g | C(C)O | C2H6O
product | N-phenyl carbamic acid ethyl ester | C(C)OC(NC1=CC=CC=C1)=O | C9H11NO2
